US07576094B2
Step 4: 6′-(Methoxymethoxy)-5′,7′,8′-trimethyl-4′H-spiro[cyclopropane-1,3′-thiochromen]-4′-one
6-Methoxymethoxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen-4-one (23 mg) was dissolved in anhydrous DMF (5 mL) and treated with 1,2-dichloroethane (6.8 μL) and NaH (60% in mineral oil, 8.2 mg), and stirred for 19 h at ambient temperature. The reaction mixture was poured into H2O and extracted with EtOAc. The organic layer was collected and dried over Na2SO4 followed by solvent evaporation. Column chromatography (SiO2: hexane:EtOAc, from 9:1 to 1:1 v/v) yielded a fraction containing impure desired product 6-methoxymethoxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen-4-one (<1 mg).

reactant | 6-Methoxymethoxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen-4-one | 23 mg | COCOC=1C(=C2C(CCSC2=C(C1C)C)=O)C | C14H18O3S
reactant | 1,2-dichloroethane | 6.8 μL | ClCCCl | C2H4Cl2
reactant | NaH | 8.2 mg | [H-].[Na+]
reactant | H2O | O | H2O
reactant | 6-methoxymethoxy-5,7,8-trimethyl-2,3-dihydro-4H-thiochromen-4-one | <1 mg | COCOC=1C(=C2C(CCSC2=C(C1C)C)=O)C | C14H18O3S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6′-(Methoxymethoxy)-5′,7′,8′-trimethyl-4′H-spiro[cyclopropane-1,3′-thiochromen]-4′-one | COCOC=1C(=C2C(C3(CSC2=C(C1C)C)CC3)=O)C | C16H20O3S
